US08278290B2
(ii) Acetic acid 2,6-dimethoxy-3-(3-methyl-3H-imidazol-4-ylethynyl)-phenyl ester
To a stirred solution of 3-acetoxy-2,4-dimethoxy-iodobenzene (250 mg, 0.776 mmol) and 5-ethynyl-1-methyl-1H-imidazole (100 mg, 1.09 mmol) in dry MeCN (3 ml) and dry NEt3 (1 ml) was added Pd(Ph3P)2Cl2 (20 mg, 3.7 mol %) and the reaction vessel was evacuated and backfilled with N2(g) three times. Copper (I) iodide (15 mg) was added and the reaction was heated to 60° C. and stirred overnight. The resulting dark solution was cooled, diluted with EtOAc and filtered through celite. The filtrate was concentrated onto silica-gel under reduced pressure and the solid residue was purified by flash chromatography (silica-gel, eluted with EtOAc) to give the product as a tan solid (130 mg, 56%). 1H-NMR (300 MHz, CDCl3) δ 7.45 (br s, 1H), 7.30 (d, J=8.7 Hz, 1H), 7.30 (br s, 1H), 6.68 (d, J=8.7 Hz, 1H), 3.94 (s, 3H), 3.83 (s, 3H), 3.71 (s, 3H), 2.33 (s, 3H).

reactant | 3-acetoxy-2,4-dimethoxy-iodobenzene | 0.776 mmol, 250 mg | C(C)(=O)OC=1C(=C(C=CC1OC)I)OC | C10H11IO4
reactant | 5-ethynyl-1-methyl-1H-imidazole | 1.09 mmol, 100 mg | C(#C)C1=CN=CN1C | C6H6N2
solvent | MeCN | 3 ml | CC#N | C2H3N
solvent | NEt3 | 1 ml | CCN(CC)CC | C6H15N
catalyst | Pd(Ph3P)2Cl2 | 20 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Acetic acid 2,6-dimethoxy-3-(3-methyl-3H-imidazol-4-ylethynyl)-phenyl ester | 130 mg, 56% | COC1=C(C(=CC=C1C#CC=1N(C=NC1)C)OC)OC(C)=O | C16H16N2O4
